US07632906B2
a) Preparation of 4-dimethylamino-2-(8-hydroxy-n-octyloxy)-5-methyl-benzophenone
In a 50 ml three-necked round-bottomed flask, 1.51 g (5.9 mmol) of 4′-dimethylamino-2-hydroxy-5-methylbenzophenone are dissolved in 10.5 ml of dimethylformamide. 3.24 g (23.17 mmol) of potassium carbonate are then added at room temperature. A temperature rise to approx. 30° C. is observed and the yellow solution immediately becomes orange. The suspension is heated to 100° C. Then, 1.46 g (8.614 mmol) of 8-chloro-1-octanol are added dropwise within 10 minutes. The dark-orange suspension is stirred at 100° C. for 2 hours and then cooled to room temperature. To dissolve the salts, 25 ml of water are added and the brown solution is then extracted using dichloromethane. The organic phase is washed with sodium hydrogencarbonate (w=0.095 g/g) and then concentrated on a rotary evaporator. The resulting brown oil is fractionally filtered through 200 g of silica gel (Merck 0.04-063 mesh) with 1 l of hexane/ethyl acetate (1:1), followed by 1 l of ethyl acetate. The ethyl acetate fraction is then concentrated by evaporation on a rotary evaporator. 1.97 g of a yellow oil are obtained, which crystallizes after 2 days (81.4% of theory); m.p.: 56.9° C.

reactant | 4′-dimethylamino-2-hydroxy-5-methylbenzophenone | 5.9 mmol, 1.51 g | CN(C1=CC=C(C=C1)C(C1=C(C=CC(=C1)C)O)=O)C | C16H17NO2
reactant | potassium carbonate | 23.17 mmol, 3.24 g | C([O-])([O-])=O.[K+].[K+]
reactant | 8-chloro-1-octanol | 8.614 mmol, 1.46 g | ClCCCCCCCCO | C8H17ClO
reactant | water | 25 ml | O | H2O
reactant | dimethylformamide | 10.5 ml | CN(C=O)C | C3H7NO
product | 4-dimethylamino-2-(8-hydroxy-n-octyloxy)-5-methyl-benzophenone | 1.97 g | CN(C1=CC(=C(C(=O)C2=CC=CC=C2)C=C1C)OCCCCCCCCO)C | C24H33NO3
